US06489344B1
A solution of iodobenzene (1.08 ml, 9.67 mmol) in DMA (5 ml) was added dropwise to a solution of diethylglutaconate (2 g, 10.74 mmol), Pd(OAc)2 (250 mg, 1.07 mmol), NaOAc (880 mg, 10.74 mmol) in DMA (5 ml) at 115° C. under argon. After heating for 8 hours at 130° C., the reaction was cooled, diluted with CH2Cl2 (60 ml), and washed with water (4×10 ml). The organic layer was washed with sat. aq. NaHCO3 (20 ml), brine (20 ml), dried with Na2SO4, filtered, and concentrated under reduced pressure. The dark oil was purified by column chromatography using CH2Cl2 as the eluent. The product oil was dried overnight in vacuo giving diethyl (2Z)-3-phenylpent-2-ene-1,5-dioate in 28% yield.

reactant | iodobenzene | 9.67 mmol, 1.08 ml | IC1=CC=CC=C1 | C6H5I
reactant | diethylglutaconate | 10.74 mmol, 2 g | C(C)OC(C=CCC(=O)OCC)=O | C9H14O4
reactant | NaOAc | 10.74 mmol, 880 mg | CC(=O)[O-].[Na+]
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 1.07 mmol, 250 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | diethyl (2Z)-3-phenylpent-2-ene-1,5-dioate | 28% yield | C1(=CC=CC=C1)\C(=C/C(=O)OCC)\CC(=O)OCC | C15H18O4
